US09382228B2
A solution of tert-butyl methyl(4-((6-nitropyridin-3-yl)oxy)-[2,3′-bipyridin]-6′-yl)carbamate (0.26 g, 0.614 mmol) in EtOAc (10 mL) was treated with 10% Pd/C (50% wet, 6.53 mg, 0.061 mmol) and hydrogenated (1 atm) for 16 h. The solids were removed via filtration through diatomaceous earth, washed with EtOAc and the filtrate concentrated to dryness to afford tert-butyl (4-((6-aminopyridin-3-yl)oxy)-[2,3′-bipyridin]-6′-yl)(methyl)carbamate (210 mg, 87%) as a white amorphous solid. 1H NMR (400 MHz, DMSO-d6): δ 8.99 (d, J=2.5 Hz, 1H), 8.49 (d, J=5.7 Hz, 1H), 8.34 (dd, J=8.8, 2.5 Hz, 1H), 7.84 (d, J=2.9 Hz, 1H), 7.75 (d, J=8.8 Hz, 1H), 7.55 (d, J=2.4 Hz, 1H), 7.31 (dd, J=8.9, 3.0 Hz, 1H), 6.75 (dd, J=5.7, 2.4 Hz, 1H), 6.52 (d, J=8.9 Hz, 1H), 6.03 (s, 2H), 3.33 (s, 3H), 1.47 (s, 9H); MS (ESI) m/z: 394.2 (M+H+).

reactant | tert-butyl methyl(4-((6-nitropyridin-3-yl)oxy)-[2,3′-bipyridin]-6′-yl)carbamate | 0.614 mmol, 0.26 g | CN(C(OC(C)(C)C)=O)C1=CC=C(C=N1)C1=NC=CC(=C1)OC=1C=NC(=CC1)[N+](=O)[O-] | C21H21N5O5
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 0.061 mmol, 6.53 mg | [Pd] | Pd
product | tert-butyl (4-((6-aminopyridin-3-yl)oxy)-[2,3′-bipyridin]-6′-yl)(methyl)carbamate | 210 mg, 87% | NC1=CC=C(C=N1)OC1=CC(=NC=C1)C=1C=NC(=CC1)N(C(OC(C)(C)C)=O)C | C21H23N5O3
